US08193228B2
A mixture 4-(difluoroacetyl)-3-fluorophenyl trifluoromethanesulfonate (15.46 g, 48 mmol), bis(pinacolato)diboron (14.63 g, 57.6 mmol), KOAc (9.42 g, 96 mmol) and DMF (200 mL) degassed and was filled with nitrogen. Pd(dppf)Cl2 (1.76 g, 2.4 mmol) was added and the mixture was again degassed and filled with nitrogen. After stirring overnight at 90° C., the mixture was cooled and volatiles were removed under reduced pressure. The residue was taken up by CH2Cl2 and the mixture was filtered. The filtrate was evaporated and the residue was purified by column chromatography (PE/EA 20:1) to give 2,2-difluoro-1-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone.

reactant | 4-(difluoroacetyl)-3-fluorophenyl trifluoromethanesulfonate | 48 mmol, 15.46 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)C(C(F)F)=O)F)(F)F | C9H4F6O4S
reactant | bis(pinacolato)diboron | 57.6 mmol, 14.63 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 96 mmol, 9.42 g | CC(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 2.4 mmol, 1.76 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2,2-difluoro-1-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone | FC(C(=O)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)F | C14H16BF3O3
